US07951954B2
b) (2-Pyridin-2-yl-ethyl)-{3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzyl}-carbamic acid tert-butyl ester
To a solution of (2-pyridin-2-yl-ethyl)-{3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzyl}-amine (6.5 g) in dichloromethane (200 mL) at 0° C. was added N,N-diisopropylethylamine (3.7 mL) and di-tert-butyl dicarbonate (4.2 g). The reaction was stirred for 4 hour, allowing to warm to room temperature. The reaction partitioned between dichloromethane and aqueous bicarbonate. The organic layer washed with brine, dried over sodium sulfate then concentrated in vacuo to give a yellow oil (7 g). The material was used in the next step without further purification.

reactant | (2-pyridin-2-yl-ethyl)-{3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzyl}-amine | 6.5 g | N1=C(C=CC=C1)CCNCC1=CC(=CC=C1)CCOC1OCCCC1 | C21H28N2O2
reactant | N,N-diisopropylethylamine | 3.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 4.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (2-Pyridin-2-yl-ethyl)-{3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzyl}-carbamic acid tert-butyl ester | 7 g | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)CCOC1OCCCC1)CCC1=NC=CC=C1)=O | C26H36N2O4
